US06514964B1
Step I: Methyl 2-{8-amino-2-[(tert-butyl)oxycarbonyl]-1H,3H,4H,5H-benzo[e]azepin-5-yl}acetate
To a stirring solution of methyl 2-[8-amino-2-[(tert-butyl)oxycarbonyl]-1H,3H,4H-benzo[e]azepin-5-ylidene}acetate in 25 ml of ethanol at room temperature was added 10% Pd/C(0.01M). The reaction was stirred under hydrogenation conditions at ballon pressure. After stirring for 4 hr, the reaction mixture was filtered through celite. The reaction solvent was removed by rotary evaporation. The residue was purified by flash chromatography (50% EtOAc/Hexane). EI-MS m/z 335 (M+H)+.

reactant | methyl 2-[8-amino-2-[(tert-butyl)oxycarbonyl]-1H,3H,4H-benzo[e]azepin-5-ylidene}acetate | NC1=CC2=C(C(CCN(C2)C(=O)OC(C)(C)C)=CC(=O)OC)C=C1 | C18H24N2O4
solvent | ethanol | 25 ml | C(C)O | C2H6O
catalyst | Pd/C | 0.01M | [Pd] | Pd
product | Methyl 2-{8-amino-2-[(tert-butyl)oxycarbonyl]-1H,3H,4H,5H-benzo[e]azepin-5-yl}acetate | NC1=CC2=C(C(CCN(C2)C(=O)OC(C)(C)C)CC(=O)OC)C=C1 | C18H26N2O4
